US07319104B2
To a solution of bromobenzoic acid (9.97 g, 49.60 mmol) in DMF (65 mL) was added Na2CO3 (7.90 g, 74.54 mmol). After stirring for 15 min, 2-bromo-1-cyclopropylethanone (9.69 g, 59.44 mmol) was added, and the mixture was stirred at rt for 12 h. Water was added, and the mixture was extracted with Et2O (6×125 ml). The combined organic phases were dried with MgSO4 and concentrated in vacuo. Recrystallization from EtOH yielded 2-cyclopropyl-2-oxoethyl 4-bromobenzoate as white needles (8.53 g, 61%).

reactant | bromobenzoic acid | 49.60 mmol, 9.97 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | Na2CO3 | 74.54 mmol, 7.90 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-bromo-1-cyclopropylethanone | 59.44 mmol, 9.69 g | BrCC(=O)C1CC1 | C5H7BrO
reactant | Water | O | H2O
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
product | 2-cyclopropyl-2-oxoethyl 4-bromobenzoate | 8.53 g, 61% | BrC1=CC=C(C(=O)OCC(=O)C2CC2)C=C1 | C12H11BrO3
